### PR TITLE
[Merged by Bors] - feat(Topology/Sets): separation properties of `(Nonempty)Compacts`

### PR DESCRIPTION
**Pull request by gasparattila**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 1]
```diff
@@ -232,6 +232,15 @@ theorem _root_.Topology.IsEmbedding.image_vietoris (hf : IsEmbedding f) : IsEmbe
   __ := hf.isInducing.image_vietoris
   injective := hf.injective.image_injective
 
+instance [T1Space α] : T0Space (Set α) := by
+  constructor
+  suffices ∀ {s t : Set α}, Inseparable s t → s ⊆ t from
+    fun _ _ h => (this h).antisymm (this h.symm)
```
Comment (scholzhannah) [inline Mathlib/Topology/Sets/VietorisTopology.lean]: The fact that this implies `T0Space` seems like it would be useful in other situations as well. I think you should add this as a general lemma.

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 2]
```diff
@@ -445,6 +454,60 @@ instance [DiscreteTopology α] : DiscreteTopology (Compacts α) := by
...
+
+instance [RegularSpace α] : RegularSpace (Compacts α) := by
+  simp_rw [regularSpace_generateFrom induced_generateFrom_eq, image_union, image_image, powerset,
+    preimage_setOf_eq, Filter.disjoint_iff]
+  rintro _ (⟨U, hU, rfl⟩ | ⟨U, hU, rfl⟩) K hK
+  · obtain ⟨V, W, hV, hW, hKV, hUW, hVW⟩ :=
+      SeparatedNhds.of_isCompact_isClosed
+        K.isCompact
+        hU.isClosed_compl
+        (disjoint_compl_right_iff_subset.mpr hK)
```
Comment (scholzhannah) [inline Mathlib/Topology/Sets/VietorisTopology.lean:504]: I think the formatting is a little odd here. I think 
```suggestion
  · obtain ⟨V, W, hV, hW, hKV, hUW, hVW⟩ := SeparatedNhds.of_isCompact_isClosed K.isCompact 
      hU.isClosed_compl (disjoint_compl_right_iff_subset.mpr hK)
```
or 

```suggestion
  · obtain ⟨V, W, hV, hW, hKV, hUW, hVW⟩ := 
      SeparatedNhds.of_isCompact_isClosed K.isCompact hU.isClosed_compl 
        (disjoint_compl_right_iff_subset.mpr hK)
```
would be nicer here.

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 3]
```diff
@@ -445,6 +454,60 @@ instance [DiscreteTopology α] : DiscreteTopology (Compacts α) := by
...
+      (isOpen_subsets_of_isOpen hV).mem_nhds_iff.mpr hKV, by grind [Set.Nonempty]⟩
+    simp_rw [(isOpen_inter_nonempty_of_isOpen hW).mem_nhdsSet, compl_setOf,
+      ← inter_compl_nonempty_iff]
+    grw [hUW]
+  · obtain ⟨x, hx₁, hx₂⟩ := hK
+    obtain ⟨V, W, hV, hW, hxV, hUW, hVW⟩ :=
+      SeparatedNhds.of_isCompact_isClosed
+        (isCompact_singleton (x := x))
+        hU.isClosed_compl
+        (by simpa)
```
Comment (scholzhannah) [inline Mathlib/Topology/Sets/VietorisTopology.lean:513]: Same as above.

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 4]
```diff
@@ -445,6 +454,60 @@ instance [DiscreteTopology α] : DiscreteTopology (Compacts α) := by
...
+        ← disjoint_iff_inter_eq_empty, ← subset_compl_iff_disjoint_right]
+      gcongr
+    · rw [(isOpen_inter_nonempty_of_isOpen hV).mem_nhds_iff]
+      exact ⟨x, hx₁, hxV <| Set.mem_singleton x⟩
+
+@[simp]
+theorem regularSpace_iff : RegularSpace (Compacts α) ↔ RegularSpace α :=
+  ⟨fun _ => isEmbedding_singleton.regularSpace, fun _ => inferInstance⟩
+
+instance [T3Space α] : T3Space (Compacts α) where
```
Comment (scholzhannah) [inline Mathlib/Topology/Sets/VietorisTopology.lean]: Is there a reason you specifically want to state this instance again when it is already being inferred?

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 5]
```diff
@@ -631,6 +694,29 @@ instance [DiscreteTopology α] : DiscreteTopology (NonemptyCompacts α) :=
...
+  ⟨fun _ => isEmbedding_singleton.t2Space, fun _ => inferInstance⟩
+
+instance [RegularSpace α] : RegularSpace (NonemptyCompacts α) :=
+  isEmbedding_toCompacts.regularSpace
+
+@[simp]
+theorem regularSpace_iff : RegularSpace (NonemptyCompacts α) ↔ RegularSpace α :=
+  ⟨fun _ => isEmbedding_singleton.regularSpace, fun _ => inferInstance⟩
+
+instance [T3Space α] : T3Space (NonemptyCompacts α) where
```
Comment (scholzhannah) [inline Mathlib/Topology/Sets/VietorisTopology.lean]: Same as above

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! I have some small comments below.

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 4 above)
Comment (gasparattila) [reply Mathlib/Topology/Sets/VietorisTopology.lean]: I didn't know that about the instance that gives `T3Space` from `T0Space` and `RegularSpace`.

**Comment by gasparattila** [comment]
-awaiting-author

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/Sets/VietorisTopology.lean]: I think the fact that you didn't need to provide a proof automatically means that some instance already exists.

**Review by scholzhannah — APPROVED** [review]

File: Mathlib/Topology/Sets/VietorisTopology.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Topology/Sets/VietorisTopology.lean]: It turned out that using additional properties of `Specializes`, this proof can be simplified in a way that this antisymmetry lemma is no longer needed, so I removed it.

File: Mathlib/Topology/Sets/VietorisTopology.lean [hunk 6]
```diff
@@ -281,18 +281,40 @@ theorem _root_.IsCompact.powerset_vietoris {K : Set α} (hK : IsCompact K) :
...
+
 theorem specializes_of_subset_closure {s t : Set α} (hst : s ⊆ t) (hts : t ⊆ closure s) :
     s ⤳ t := by
-  simp_rw [Specializes, nhds_generateFrom, le_iInf₂_iff]
-  rintro _ ⟨hs, ⟨U, hU, rfl⟩ | ⟨U, hU, rfl⟩⟩
-  · exact iInf₂_le U.powerset ⟨hst.trans hs, .inl <| mem_image_of_mem _ hU⟩
-  · obtain ⟨x, hxt, hxU⟩ := hs
-    obtain ⟨y, hyU, hys⟩ := mem_closure_iff.mp (hts hxt) U hU hxU
-    exact iInf₂_le {t | (t ∩ U).Nonempty} ⟨⟨y, hys, hyU⟩, .inr <| mem_image_of_mem _ hU⟩
+  grind [specializes_iff, specializes_rfl]
```
Comment (ocfnash) [inline Mathlib/Topology/Sets/VietorisTopology.lean]: I think this is a better fit for `aesop` than `grind`:
```suggestion
  aesop (add simp specializes_iff)
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
